US08013010B2
3-(2-Fluoro-4-pyridinyl)phenyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside
By carrying out the operation analogously to example 3, starting from 3-bromophenyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside, obtained according to preparation VII, and 2-fluoro-4-pyridineboronic acid, the expected product is obtained in the form of a white solid with a yield of 52%.

reactant | 3-bromophenyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside | C(C)(=O)O[C@H]1[C@H](OC2=CC(=CC=C2)Br)SC[C@H]([C@@H]1OC(C)=O)OC(C)=O | C17H19BrO7S
reactant | 2-fluoro-4-pyridineboronic acid | FC1=NC=CC(=C1)B(O)O | C5H5BFNO2
product | 3-(2-Fluoro-4-pyridinyl)phenyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside | yield of 52% | C(C)(=O)O[C@H]1[C@H](OC2=CC(=CC=C2)C2=CC(=NC=C2)F)SC[C@H]([C@@H]1OC(C)=O)OC(C)=O | C22H22FNO7S
